US09029391B2
A mixture of methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate (160 mg, 0.329 mmol) and Zn(CN)2 (38.6 mg, 0.329 mmol) in N,N-Dimethylformamide (DMF) (3289 μl) was degassed with N2 for 5 min, treated with Pd(Ph3P)4 (38.0 mg, 0.033 mmol), and irradiated in microwave at 120° C. for 30 min. The mixture was diluted with water, extracted with EtOAc, washed with water, brine, dried with Na2SO4, filtered, and concentrated. the residue was purified by column chromatography (SiO2, 0-60% EtOAc/Hexane) to afford methyl [7-cyano-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate (116.8 mg, 0.270 mmol, 82% yield) as colorless oil that slowly became a white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.85-8.76 (m, 1 H), 7.65 (ddd, J=1.9, 6.1, 8.3 Hz, 1 H), 7.30-7.24 (m, 1 H), 7.23-7.09 (m, 2 H), 7.07-6.96 (m, 1 H), 5.22 (s, 1 H), 3.80 (s, 1.5 H), 3.78 (s, 1.5 H), 3.70 (s, 1.5 H), 3.69 (s, 1.5 ; H), 2.37 (s, 3 H), 2.32 (s, 3 H), 1.02 (s, 4.5 H), 1.01 (s, 4.5 H); LCMS (m/z) ES+=433 (M+1).

reactant | methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate | 0.329 mmol, 160 mg | BrC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C25H28BrNO4
reactant | N,N-Dimethylformamide | 3289 μl | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | Zn(CN)2 | 0.329 mmol, 38.6 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(Ph3P)4 | 0.033 mmol, 38.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl [7-cyano-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate | 0.270 mmol, 116.8 mg, 82% yield | C(#N)C1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C26H28N2O4
